US08349833B2
8-(2-Chlorophenyl)-2,2-dimethyl-oct-7-enoic acid ethyl ester (7 g, 22.8 mmol) was dissolved in glacial acetic acid (60 mL). The solution was cooled in an ice-bath (ca. 15° C.), while dry hydrogen bromide was passed into the solution for 8 h. The reaction mixture was poured into ice-water (130 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with saturated NaHCO3 solution (100 mL), dried over Na2SO4, and concentrated under reduced pressure. The crude product (10 g) was purified by column chromatography (200 g silica gel, eluting with ethyl acetate/heptane=1/20 to 1/10) to furnish 8-bromo-8-(2-chlorophenyl)2,2-dimethyloctanoic acid ethyl ester (7.46 g, 81.8% yield) as a yellow oil. 1H NMR (Field: 300 MHz, Solvent: CDCl3/TMS) δ (ppm): 7.59 (d, 1H, J=7.8 Hz), 7.34 (t, 1H, J=7.5 Hz), 7.26 (d, 1H, J=6.9 Hz), 7.19 (t, 1H, J=7.2 Hz), 5.45 (t, 1H, J=7.5 Hz), 4.09 (q, 2H, J=7.2 Hz), 2.26-2.09 (m, 4H), 1.52-1.46 (m, 2H), 1.41-1.31 (m, 2H), 1.28-1.18 (m, 2H), 1.20 (t, 3H, J=7.2 Hz), 1.14 (s, 6H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 177.80, 139.43, 132.65, 129.64, 129.24, 128.88, 127.45, 60.28, 50.30, 42.25, 39.21, 29.48, 27.98, 25.36, 24.88, 14.49. HRMS (GC-CI): Calculated for C18H26BrClO2 (M+H)+389.0883, found 389.0867.

reactant | 8-(2-Chlorophenyl)-2,2-dimethyl-oct-7-enoic acid ethyl ester | 22.8 mmol, 7 g | C(C)OC(C(CCCCC=CC1=C(C=CC=C1)Cl)(C)C)=O | C18H25ClO2
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 8-bromo-8-(2-chlorophenyl)2,2-dimethyloctanoic acid ethyl ester | 7.46 g, 81.8% yield | C(C)OC(C(CCCCCC(C1=C(C=CC=C1)Cl)Br)(C)C)=O | C18H26BrClO2
